US09034866B2
Synthesis of (R)-9-(3-hydroxy-3-(5-methylisoxazol-3-yl)but-1-yn-1-yl)-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxamide
To a pressure tube was added 9-iodo-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxamide (99 mg, 0.28 mmol) followed by piperidine (2.0 mL), tetrakis(triphenylphosphine)palladium (0) (32 mg, 0.03 mmol), copper(I) iodide (5 mg, 0.03 mmol) and (2R)-2-(5-methyl-1,2-oxazol-3-yl)but-3-yn-2-ol (63 mg, 0.42 mmol). The reaction vessel was sealed and heated at 60° C. for 30 minutes. The reaction mixture was cooled and concentrated in vacuo. and then co-evaporated with dichloromethane (2×10 ml). The crude material was purified by FCC (silica, 2-8% methanol in dichloromethane) to provide 59 mg (56%) of the title compound as a pale brown solid. 1H NMR (DMSO, 500 MHz) δ 1.80 (3H, s), 2.41 (3H, s), 3.17 (2H, t, J=5.8 Hz), 4.49 (2H, t, J=5.8 Hz), 6.32-6.39 (1H, m), 6.52 (1H, s), 6.72 (1H, s), 7.21 (1H, d, J=8.4 Hz), 7.34 (1H, s), 7.37 (1H, dd, J=8.4, 2.1 Hz), 7.79 (1H, s), 8.02 (1H, d, J=2.1 Hz); M+23=401.

reactant | 9-iodo-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxamide | 0.28 mmol, 99 mg | IC1=CC2=C(OCCC=3N2N=C(C3)C(=O)N)C=C1 | C12H10IN3O2
reactant | piperidine | 2.0 mL | N1CCCCC1 | C5H11N
reactant | (2R)-2-(5-methyl-1,2-oxazol-3-yl)but-3-yn-2-ol | 0.42 mmol, 63 mg | CC1=CC(=NO1)[C@@](C)(C#C)O | C8H9NO2
catalyst | tetrakis(triphenylphosphine)palladium | 0.03 mmol, 32 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper(I) iodide | 0.03 mmol, 5 mg | [Cu]I
product | (R)-9-(3-hydroxy-3-(5-methylisoxazol-3-yl)but-1-yn-1-yl)-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxamide | 59 mg, 56% | O[C@@](C#CC1=CC2=C(OCCC=3N2N=C(C3)C(=O)N)C=C1)(C)C1=NOC(=C1)C | C20H18N4O4
